US07473786B1
2-(4-(Methoxycarbonyl)phenyl)benzo[b]furan (entry 7, Table 2):
The general procedure was used to convert 4-Ethynyl-benzoic acid methyl ester and 2-iodophenol to the title product. Purification by flash chromatography (10% ethyl acetate in hexanes) gave the analytically pure product as a white solid (300 mg, 67% yield). 1H NMR δ 8.09 (dd, J=8.70, 2H), 7.90 (d, J=8.70, 2H), 7.52-7.62 (dd, J=8.10, 2H), 7.24-7.33 (m, 2H), 7.13 (s, 1H), 3.93 (s, 3H). 13C NMR δ 167.00, 155.50, 155.00, 134.80, 130.50, 130.00, 129.30, 125.40, 125.0, 123.60, 121.60, 111.70, 103.80, 52.60. Anal. Calcd. for C16H12O3: C, 76.18; H, 4.79. Found C, 75.97; H, 4.75. m.p. 176-178° C. (lit., 5176-177° C.).

reactant | 4-Ethynyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C#C)=O | C10H8O2
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
product | 2-(4-(Methoxycarbonyl)phenyl)benzo[b]furan | COC(=O)C1=CC=C(C=C1)C1=CC2=C(O1)C=CC=C2 | C16H12O3
